* \\fs-caedm.et.byu.edu\homes\My Documents\LTspice\Draft1.asc
V_ESP32 N002 N004 3.3
R1 N002 0 1k
R2 0 N004 1k
R3 N001 0 1k
V1 N003 0 SINE(0 0.1 1k)
XU1 N003 N001 N002 N004 out level2 Avol=25118.9 GBW=1Meg Slew=0.6Meg Ilimit=6m Rail=25m Vos=-4.5m En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 out N001 9k
C1 N002 0 1m
C2 0 N004 1m
.meas gain V(out)/V(IN)
.tran 3m
.lib UniversalOpAmp2.lib
.backanno
.end
